US09056865B2
Step 5: 3′,6′-dichloro-3,5-dimethyl-2,2′-bipyridine
A mixture of 6′-chloro-3,5-dimethyl-2,2′-bipyridine (300 mg, 1.37 mmol), NCS (202 mg, 1.51 mmol), and Pd(OAc)2 (31.4 mg, 0.137 mmol) in AcOH (9.15 mL) was heated to 120° C. in a sealed microwave vial using an oil bath. After 20 h, the reaction was removed from heat and concentrated. Took up the residue in EtOAc, filtered off the solid through a glass fiber filter, and washed with 1:1 EtOAc/heptane. The filtrate was concentrated and purified on Biotage 25S column, eluting with 0-25% EtOAc/heptane to get 240 mg (69%) of the title compound as an off-white solid. m/z (APCI+) for C12H10N2Cl2 253.00 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.33 (s, 1 H) 8.16 (d, J=8.59 Hz, 1 H) 7.66 (d, J=8.59 Hz, 1 H) 7.61 (s, 1 H) 2.34 (s, 3 H) 2.08 (s, 3 H).

reactant | 6′-chloro-3,5-dimethyl-2,2′-bipyridine | 1.37 mmol, 300 mg | ClC1=CC=CC(=N1)C1=NC=C(C=C1C)C | C12H11ClN2
reactant | NCS | 1.51 mmol, 202 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | AcOH | 9.15 mL | CC(=O)O | C2H4O2
catalyst | Pd(OAc)2 | 0.137 mmol, 31.4 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3′,6′-dichloro-3,5-dimethyl-2,2′-bipyridine | 240 mg, 69% | ClC=1C(=NC(=CC1)Cl)C1=NC=C(C=C1C)C | C12H10Cl2N2
